US05962458
A solution of 3-(2-(tetrahydropyran-2-yloxy)ethoxy)pyridine (1.54 g, 7 mmol) in acetic acid (8 ml), THF (4 ml) and water (2 ml) was heated at 50° C. for 4 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 3-(2-hydroxyethoxy)pyridine (820 mg, 86%) as an off-white solid.

reactant | 3-(2-(tetrahydropyran-2-yloxy)ethoxy)pyridine | 7 mmol, 1.54 g | O1C(CCCC1)OCCOC=1C=NC=CC1 | C12H17NO3
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 3-(2-hydroxyethoxy)pyridine | 820 mg, 86% | OCCOC=1C=NC=CC1 | C7H9NO2
